US03993679
4-Methoxy-N,N'-(m-phenylene)dioxamic acid
Diethyl 4-methoxy-N,N'-(m-phenylene)dioxamate (1.0 gm., 0.0029 mole) is stirred in 1.0N NaOH (10 ml.) at room temperature for 1 hour, then heated at reflux for thirty minutes. The reaction mixture is diluted with water (25 ml.) and the pH adjusted to 3 with hydrochloric acid. The resulting solid is collected and washed with acetone (0.72 gm., 86%, m.p. >320°).

reactant | Diethyl 4-methoxy-N,N'-(m-phenylene)dioxamate | 0.0029 mole, 1.0 gm | COC1=C(C=C(C=C1)NC(C(=O)OCC)=O)NC(C(=O)OCC)=O | C15H18N2O7
reactant | hydrochloric acid | Cl | ClH
solvent | NaOH | 1.0N, 10 ml | [OH-].[Na+]
solvent | water | 25 ml | O | H2O
product | 4-Methoxy-N,N'-(m-phenylene)dioxamic acid | COC1=C(C=C(C=C1)NC(C(=O)O)=O)NC(C(=O)O)=O | C11H10N2O7
